US07417169B2
Ethyl bromoacetate (1.038 mL) was added to a mixture of 4-bromo-2-ethoxyphenol (1.694 g) and potassium carbonate (1.618 g) in N,N-dimethylformamide (10 mL), and the mixture was stirred at room temperature overnight. Water and ethyl acetate were added to the reaction mixture. The organic layer was separated, washed with water and brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure, and the residue was purified by silica gel column chromatography (eluent: diethyl ether/n-hexane=1/10) to afford ethyl(4-bromo-2-ethoxyphenoxy)acetate (2.26 g).

reactant | Ethyl bromoacetate | 1.038 mL | BrCC(=O)OCC | C4H7BrO2
reactant | 4-bromo-2-ethoxyphenol | 1.694 g | BrC1=CC(=C(C=C1)O)OCC | C8H9BrO2
reactant | potassium carbonate | 1.618 g | C([O-])([O-])=O.[K+].[K+]
reactant | Water | O | H2O
solvent | N,N-dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | ethyl(4-bromo-2-ethoxyphenoxy)acetate | 2.26 g | C(C)OC(COC1=C(C=C(C=C1)Br)OCC)=O | C12H15BrO4
